Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[H:8],4.440954365540001
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][O:7][C:8]([H:9])[H:10],3.05292601325
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],5.325712887219999
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9]1>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[O:9],-1.4519498301499998
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.98483992552
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]#[C:5][H:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12],2.38727528912
[C:3][H:4].[O:1]=[C:2][O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8],-5.649732814939999
[C:1]#[C:2][O:5][H:6].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][H:6],-3.99046621136
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2](=[C:3]=[O:4])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[O:4][C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.72244022382
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6],2.8149952892
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12],1.55578877778
[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9].[H:10],3.80156053659
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8],1.85424166085
[H:10].[O:1]=[C:2]([H:3])[C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.5530684905
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],7.341758756669999
[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.59032733605
[H:10].[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.87855746112
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],0.905478547156
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[O:5][H:6],5.448586135580001
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][H:4],1.6051108074899998
[C:5]([H:6])([H:7])=[C:8][O:9][H:10].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],0.16951628307
[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],-0.592709467128
[C:3]([H:4])(=[C:10]=[C:8]([C:5]([H:6])[H:7])[H:9])[H:13].[H:1][C:2]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-0.84302841386
[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9]>>[C:1].[C:2]([O:3][C:4]#[C:5][H:6])=[C:7]([H:8])[H:9],4.77322162106
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]1([H:9])[H:10]>>[H:1][C:2](=[C:3][H:4])[C:8]([O:7][C:5][H:6])([H:9])[H:10],4.58403112961
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[O:13][H:14],3.68334487247
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]#[C:4][H:5],2.02956397439
[H:3].[O:1]=[C:2][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.844249344730002
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],5.15651662578
[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1].[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],3.22286743246
